US09260397B2
1-(4-ethylcarboxyphenyl)-3-tetradecyl imidazolium bromide
According to the general synthesis procedure, 4.60 mmol (1.00 g) 1-(4-ethylcarboxyphenyl)imidazole and 5.50 mmol (1.50 g, 1.5 ml) 1-bromotetradecane are dissolved in 5 ml THF and heated for 68 h to 90° C.

reactant | 1-(4-ethylcarboxyphenyl)imidazole | 4.60 mmol, 1.00 g | C(C)C1=CC(=C(C=C1)N1C=NC=C1)C(=O)O | C12H12N2O2
reactant | 1-bromotetradecane | 5.50 mmol, 1.5 ml, 1.50 g | BrCCCCCCCCCCCCCC | C14H29Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-ethylcarboxyphenyl)-3-tetradecyl imidazolium bromide | [Br-].C(C)C1=CC(=C(C=C1)[N+]1=CN(C=C1)CCCCCCCCCCCCCC)C(=O)O | InChI=1S/C26H40N2O2.BrH/c1-3-5-6-7-8-9-10-11-12-13-14-15-18-27-19-20-28(22-27)25-17-16-23(4-2)21-24(25)26(29)30;/h16-17,19-22H,3-15,18H2,1-2H3;1H
